US04342781
N-(1-Methyldecyl)-3-phenyl-3-(4-aminophenyl)propenamide
Reduction of 6.4 g. of N-(1-methyldecyl)-3-phenyl-3-(4-nitrophenyl)propenamide with 4.2 g. of iron powder in glacial acetic acid, according to the procedure of Preparation 25, afforded the title compound as an oil. This product was chromatographed on 220 g. of silica gel, eluting with 1:1 ethyl acetate-hexane containing 2% triethylamine. This gave 2.0 g. of trans-N-(1-methyldecyl)-3-phenyl-3-(4-aminophenyl)propenamide and 2.5 g. of cis-N-(1-methyldecyl)-3-phenyl-3-(4-aminophenyl)propenamide. The NMR spectrum of the trans-isomer (in CDCl3) showed absorptions at 0.90 (m), 1.20 (s), 3.80 (b), 5.15 (b), 6.30 (s), 6.85 (m) and 7.30 (s) ppm.

reactant | N-(1-methyldecyl)-3-phenyl-3-(4-nitrophenyl)propenamide | CC(CCCCCCCCC)NC(C=C(C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C26H34N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | N-(1-Methyldecyl)-3-phenyl-3-(4-aminophenyl)propenamide | CC(CCCCCCCCC)NC(C=C(C1=CC=C(C=C1)N)C1=CC=CC=C1)=O | C26H36N2O
